US03996229
In a manner analogous to that described in Example 5, from 1-[10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10-yl]-piperazine and 4-chloro-2-butyn-1-ol there is obtained 4-{4-[10,11-dihydro-3-methoxy-8-methylthio-dibenzo-[b,f]thiepin-10-yl]-1-piperazinyl}-2-butyn-1-ol, the dihydrochloride of which melts at 208°-210° C.

reactant | 1-[10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10-yl]-piperazine | COC=1C=CC2=C(SC3=C(C(C2)N2CCNCC2)C=C(C=C3)SC)C1 | C20H24N2OS2
reactant | 4-chloro-2-butyn-1-ol | ClCC#CCO | C4H5ClO
product | 4-{4-[10,11-dihydro-3-methoxy-8-methylthio-dibenzo-[b,f]thiepin-10-yl]-1-piperazinyl}-2-butyn-1-ol | COC=1C=CC2=C(SC3=C(C(C2)N2CCN(CC2)CC#CCO)C=C(C=C3)SC)C1 | C24H28N2O2S2
